US06187781B1
The operation of Example 4-(1) was followed using 168 mg of thiophene and 432 mg of 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-6-methyl-4-(4-oxopiperidin-1-yl)pyrimidine to give 228 mg of 2-(N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(thiophen-2-yl)-4-hydroxypiperidin-l-yl]-6-methylpyrimidine.

reactant | thiophene | 168 mg | S1C=CC=C1 | C4H4S
reactant | 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-6-methyl-4-(4-oxopiperidin-1-yl)pyrimidine | 432 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(CC1)=O)C | C21H27BrN4O
product | 2-(N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(thiophen-2-yl)-4-hydroxypiperidin-l-yl]-6-methylpyrimidine | 228 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(CC1)(O)C=1SC=CC1)C | C25H31BrN4OS
